US08981084B2
6-(4-(4-Cyanobutanoyl)-3-methylpiperazin-1-yl)nicotinonitrile
This compound was synthesized from 6-(3-methylpiperazin-1-yl)nicotinonitrile and 4-cyanobutyric acid as described for example 37 step 3 (900 mg, yield 85%) and it was carried through without further purification. 1H NMR (300 MHz, CDCl3) δ 8.41-8.40 (dd, J=2.3 Hz, 0.5 Hz, 1H), 7.67-7.63 (dd, J=9.0 Hz, 2.2 Hz, 1H), 6.61-6.58 (d, J=9.0 Hz, 1H), 4.46-4.19 (m, 4H), 3.54-3.36 (m, 2H), 3.16-3.11 (m, 2H), 2.59-2.51 (m, 3H), 2.06-2.01 (m, 2H), 1.26 (m, 3H). MS (ESI) m/z: Calculated for C16H19N6O: 297.16. found: 298.0 (M+H)+

reactant | 6-(3-methylpiperazin-1-yl)nicotinonitrile | CC1CN(CCN1)C1=NC=C(C#N)C=C1 | C11H14N4
reactant | 4-cyanobutyric acid | C(#N)CCCC(=O)O | C5H7NO2
product | 6-(4-(4-Cyanobutanoyl)-3-methylpiperazin-1-yl)nicotinonitrile | yield 85% | C(#N)CCCC(=O)N1C(CN(CC1)C1=NC=C(C#N)C=C1)C | C16H19N5O
